US07632837B2
54B. Preparation of 5-(2-chlorophenyl)4-(4-chlorophenyl)-2-fluoropyridine
To a flame-dried tube was placed 5-chloro-4-(4-chlorophenyl)-2-fluoropyridine (0.71 g, 2.93 mmol), 2-chlorophenylboronic acid (0.55 g, 3.52 mmol), K3PO4 (1.24 g, 5.86 mmol), Pd2(dba)3 (0.134 g, 0.147 mmol), and S-Phos (0.12 g, 0.29 mmol). The reaction vessel was then purged with argon three times before degassed toluene (15 mL) was added in, and sealed. The reaction mixture was stirred at 95° C. for 16 h. Analysis by HPLC/MS indicated the reaction was complete. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (30 mL×3). The combined organic was washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (80 g) eluting with a gradient of EtOAc (0-10%) in hexanes to afford 0.33 g (35%) of the title compound as a white foam. HPLC/MS: retention time=4.03 min, [M+H]+=318.1.

reactant | 5-chloro-4-(4-chlorophenyl)-2-fluoropyridine | 2.93 mmol, 0.71 g | ClC=1C(=CC(=NC1)F)C1=CC=C(C=C1)Cl | C11H6Cl2FN
reactant | 2-chlorophenylboronic acid | 3.52 mmol, 0.55 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K3PO4 | 5.86 mmol, 1.24 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.29 mmol, 0.12 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | Pd2(dba)3 | 0.147 mmol, 0.134 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(2-chlorophenyl)4-(4-chlorophenyl)-2-fluoropyridine | 0.33 g, 35% | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)F)C1=CC=C(C=C1)Cl | C17H10Cl2FN
